US09290451B2
a) 3-(tert-Butoxycarbonylamino)-3-methylbutanoic acid
3-Amino-3-methylbutanoic acid (CAN 625-05-8, 2.0 g, 17 mmol) was combined with dioxane (60 mL) to give a colorless suspension. 1 N sodium hydroxide solution (17.0 mL, 17.0 mmol) was added dropwise at 0° C. within 10 min Di-tert-butyldicarbonate (4.8 g, 22.2 mmol) was added in three portions. The reaction was stirred for 30 min to give a colorless suspension. Then dioxane (30 mL) was added (using less solvent resulted in a thick suspension) and the mixture was stirred for 17 hours at ambient temperature. The reaction mixture was concentrated in vacuo to a volume of 50 mL and poured into 200 mL water. Then the mixture was washed with ethyl acetate (3×80 ml). The aqueous layers were combined, 2 N HCl was added and after adjusting the pH to 2 the mixture was extracted with ethyl acetate (3×60 mL). The organic layers were combined, dried over sodium sulfate and concentrated in vacuo to give product (2.7 g, 72.9%).

reactant | 3-Amino-3-methylbutanoic acid | 17 mmol, 2.0 g | NC(CC(=O)O)(C)C | C5H11NO2
reactant | sodium hydroxide | 17.0 mmol, 1 N, 17.0 mL | [OH-].[Na+]
reactant | Di-tert-butyldicarbonate | 22.2 mmol, 4.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 3-(tert-Butoxycarbonylamino)-3-methylbutanoic acid | 2.7 g, 72.9% | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
